US09388189B2
c) 4-Amino-6-bromo-N-(3-fluoro-5-hydroxyphenyl)pyrimidine-5-carboxamide
4-Amino-6-chloro-N-(3-fluoro-5-methoxyphenyl)pyrimidine-5-carboxamide (458 mg, 1.54 mmol) was treated with boron tribromide (1M in dichloromethane, 0.46 ml, 4.6 mmol) an using dichloromethane (7 ml) as a solvent according to the method described in Example 23. The solid residue (394 mg, 71% yield) was used in the next synthetic step without further purification. Purity 91%.

reactant | 4-Amino-6-chloro-N-(3-fluoro-5-methoxyphenyl)pyrimidine-5-carboxamide | 1.54 mmol, 458 mg | NC1=NC=NC(=C1C(=O)NC1=CC(=CC(=C1)OC)F)Cl | C12H10ClFN4O2
reactant | boron tribromide | 4.6 mmol, 1M, 0.46 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 4-Amino-6-bromo-N-(3-fluoro-5-hydroxyphenyl)pyrimidine-5-carboxamide | 394 mg, 71% yield | NC1=NC=NC(=C1C(=O)NC1=CC(=CC(=C1)O)F)Br | C11H8BrFN4O2
